US08044076B2
A solution of 4-benzyloxy-3-ethyl-5-methyl-benzoic acid N'-(4-isopropoxy-3-methyl-benzoyl)-hydrazide (1.57 g, 3.40 mmol) and Burgess reagent (1.06 g, 4.43 mmol) in THF (30 mL) is heated to 110° C. under microwave irradiation for 3 min. The mixture is cooled, diluted with diethyl ether, washed with water, dried over MgSO4, filtered and concentrated. The crude product is purified by CC on silica gel eluting with heptane:EA 5:1 to give 2-(4-benzyloxy-3-ethyl-5-methyl-phenyl)-5-(4-isopropoxy-3-methyl-phenyl)-[1,3,4]oxadiazole (1.25 g) as a colourless oil; LC-MS: tR=1.24 min, [M+1]+=443.58.

reactant | 4-benzyloxy-3-ethyl-5-methyl-benzoic acid N'-(4-isopropoxy-3-methyl-benzoyl)-hydrazide | 3.40 mmol, 1.57 g | C(C)(C)OC1=C(C=C(C(=O)NNC(C2=CC(=C(C(=C2)C)OCC2=CC=CC=C2)CC)=O)C=C1)C | C28H32N2O4
reactant | Burgess reagent | 4.43 mmol, 1.06 g | CC[N+](CC)(CC)S(=O)(=O)N=C([O-])OC | C8H18N2O4S
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(4-benzyloxy-3-ethyl-5-methyl-phenyl)-5-(4-isopropoxy-3-methyl-phenyl)-[1,3,4]oxadiazole | 1.25 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1C)C=1OC(=NN1)C1=CC(=C(C=C1)OC(C)C)C)CC | C28H30N2O3
